US06933304B2
5-Amino-3,3-dimethyl-5-oxopentanoic acid (10.9 g; 68.6 mmoles) was dissolved in DMF (50 mL). Potassium carbonate (14.2 g; 103 mmoles) and methyl iodide (8.5 mL; 137.2 mmoles) were added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was filtered, washing the filter cake with DMF. The DMF was removed under vacuum and the residue was suspended in ethyl acetate. The solids were removed by filtration and the ethyl acetate was removed under vacuum to give the product, methyl 5-amino-3,3-dimethyl-5-oxopentanoate, as a yellow oil (11.5 g; 97%). 1H NMR (400 MHz) DMSO-d6 δ 7.22 (1H, s, br), 6.73 (1H, s, br), 3.58 (3H, s), 2.39 (2H, s), 2.09 (2H, s), 1.02 (6H, s).

reactant | 5-Amino-3,3-dimethyl-5-oxopentanoic acid | 68.6 mmoles, 10.9 g | NC(CC(CC(=O)O)(C)C)=O | C7H13NO3
reactant | Potassium carbonate | 103 mmoles, 14.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 137.2 mmoles, 8.5 mL | CI | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 5-amino-3,3-dimethyl-5-oxopentanoate | NC(CC(CC(=O)OC)(C)C)=O | C8H15NO3
